US07495007B2
Preparation of intermediate [2-(4-chloro-2-formyl-phenoxy)-ethyl]-carbamic acid tert-butyl ester
In a manner similar to the method described in Example 227a, (2-bromo-ethyl)-carbamic acid tert-butyl ester (10 g, 44.8 mmol) was reacted with 5-chloro-2-hydroxy-benzaldehyde (7 g, 44.8 mmol), K2CO3 (18.6 g, 134 mmol) and KI (1.48 g, 8.96 mmol) to give title compound as oil (9.56 g)

reactant | (2-bromo-ethyl)-carbamic acid tert-butyl ester | 44.8 mmol, 10 g | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
reactant | 5-chloro-2-hydroxy-benzaldehyde | 44.8 mmol, 7 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | K2CO3 | 134 mmol, 18.6 g | C(=O)([O-])[O-].[K+].[K+]
product | [2-(4-chloro-2-formyl-phenoxy)-ethyl]-carbamic acid tert-butyl ester | 9.56 g | C(C)(C)(C)OC(NCCOC1=C(C=C(C=C1)Cl)C=O)=O | C14H18ClNO4
